US20010056179A1
A solution of 4-(4-hydroxyphenyl)cyclohexanone (5.0 g, 26.3 mmol) in acetone (100 mL) was treated with K2CO3 (14.5 g, 105 mmol, 4 equiv) and iodomethane (4.9 mL, 11.2 g, 78.6 mmol, 3 equiv.). The reaction was heated at 65° C. overnight. After the solvent was removed, the residue was treated with H2O and extracted with EtOAc. The organic extracts were combined and washed with brine, dried over Na2SO4 and concentrated in vacuum to give the spectroscopically pure 4-(4-methoxyphenyl)cyclohexanone (5.34 g, 100%). 1HNMR(CDCl3) 7.16 (dt, 2H), 6.87 (dt, 2H), 3.78 (s, 3H), 2.99 (tt, 1H), 2.47-2.53 (m, 4H), 2.20 (m, 2H) and 1.83-1.98 (m, 2H); MS (electrospray) m/e, 205 (M+1)+, Calcd for C13H16O2, 204.

reactant | 4-(4-hydroxyphenyl)cyclohexanone | 26.3 mmol, 5.0 g | OC1=CC=C(C=C1)C1CCC(CC1)=O | C12H14O2
reactant | K2CO3 | 105 mmol, 14.5 g, 4 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 78.6 mmol, 4.9 mL, 11.2 g, 3 equiv. | IC | CH3I
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-(4-methoxyphenyl)cyclohexanone | 5.34 g, 100% | COC1=CC=C(C=C1)C1CCC(CC1)=O | C13H16O2
